US06660751B1
4-(5Methyl-1H-benzimidazol-2-yl)piperidine (D16)
The title compound was prepared from isonipecotic acid and 3,4 diamino toluene using the method described in Description 14. MH+ 216.

reactant | isonipecotic acid | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | 3,4 diamino toluene | NC=1C=C(C=CC1N)C | C7H10N2
product | 4-(5Methyl-1H-benzimidazol-2-yl)piperidine | CC1=CC2=C(NC(=N2)C2CCNCC2)C=C1 | C13H17N3
